* Wurlitzer 200A Preamp — AC Frequency Response Testbench
* ========================================================
* Bode plot: gain and phase from 10 Hz to 100 kHz.
*
* Source network: Vs → R-1 (22K) → node_A (preamp 'in' pin).
* R-1 provides the source impedance that allows R-10 feedback
* to operate — without it, an ideal voltage source absorbs the
* feedback current and the preamp runs open-loop.
*
* LDR (R_ldr) between trem pin and ground sets the feedback
* divider with R-10. Nominal 12K gives ~5.6x (15 dB) closed-loop gain.
*
* Targets (RE-BASELINED 2026-09-13, drawn topology, 14.5V rail):
*   Closed-loop gain at 1 kHz: 15.54 dB  [R_ldr = 12K, loaded out]
*   HF -3dB re 1 kHz: 16.8 kHz (triple-confirmed: melange 16.7k,
*     matched-drive derivation 17.1k)
*   Mild LF rise to ~16.4 dB near 31 Hz (stage-2 zero/pole + loop-gain
*     shaping from C-7's incomplete bypass -- real physics)
*   (The old "C20 1903 Hz corner" target was the misread topology.)

.title Preamp AC Frequency Response

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 trem  wurli_preamp

* Source network: AC source through R-1 (22K) to preamp input
* R-1 is the series resistor between the pickup cable and node_A on the preamp PCB.
Vin  src 0  DC 0 AC 1M
R1   src in_sig  22K

* LDR: nominal 12K (tremolo midpoint) between trem pin and ground.
* R-10 (56K) + R_ldr (12K) form the feedback divider.
* Gain ≈ 1 + R-10/R_ldr = 1 + 56K/12K ≈ 5.7x
Rldr trem 0  12K

* Load resistor (volume pot / next stage input impedance)
Rload out 0  100K

* AC analysis: 200 points per decade, 10 Hz to 100 kHz
.ac dec 200  10  100K

* Output gain in dB and phase.
* Gain ref: VDB(out) is absolute; input is 1mV so gain_dB = VDB(out) + 60
.print AC VDB(out) VP(out) VDB(in_sig)

.end
